US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.) was treated with conc. hydrochloric acid (0.34 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 850 mg.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOC)Br | C16H15BrN6O8S2
reactant | hydrochloric acid | 0.34 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride | 850 mg | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOC)Br | InChI=1S/C15H15BrN6O7S2.ClH/c1-28-21-6(5-9(16)31-14(17)20-5)10(23)19-7-11(24)22-8(13(25)26)4(2-29-15(18)27)3-30-12(7)22;/h7,12H,2-3H2,1H3,(H2,17,20)(H2,18,27)(H,19,23)(H,25,26);1H/t7?,12-;/m1./s1
